US04482556
9,10-Dimethoxy-3-isopropyl-3,4,6,7-tetrahydro-2H-pyrimido-(6,1-a)isoquinolin-2,4-dione
In a manner analogous to that of Example 3, 9,10-dimethoxy-3,4,6,7-tetrahydro-2H-pyrimido(6,1-a)isoquinolin-2,4-dione is reacted with isopropyl iodide. Yield 50%; melting point 190°-192° C.

reactant | 9,10-dimethoxy-3,4,6,7-tetrahydro-2H-pyrimido(6,1-a)isoquinolin-2,4-dione | COC=1C=C2CCN3C(C2=CC1OC)=CC(NC3=O)=O | C14H14N2O4
reactant | isopropyl iodide | C(C)(C)I | C3H7I
product | 9,10-Dimethoxy-3-isopropyl-3,4,6,7-tetrahydro-2H-pyrimido-(6,1-a)isoquinolin-2,4-dione | Yield 50% | COC=1C=C2CCN3C(C2=CC1OC)=CC(N(C3=O)C(C)C)=O | C17H20N2O4
